US20010046994A1
Synthesis of 1-(2-chloro-5-pyridylmethyl)-5-methyl-2-nitroiminohexahydro-1,3,5-triazine
0.6 g of 1-(2-chloro-5-pyridylmethyl)-3-nitroguanidine and 0.4 g of bis(chloromethyl)methylamine were suspended in dried THF. To the suspension, a solution of 0.52 g of triethylamine in THF was added dropwise with cooling. The reaction mixture was stirred for 1 hour, and then poured into ice water. The mixture was extracted with dichloromethane. After the extract was dried over anhydrous magnesium sulfate, dichloromethane was distilled off. The residue was recrystallized from methanol to obtain 0.78 g of the title compound. This compound is No. 1 in Table 1. m.p.: 150-154° C.

reactant | 1-(2-chloro-5-pyridylmethyl)-3-nitroguanidine | 0.6 g | ClC1=NC=C(C=C1)CNC(=N)N[N+](=O)[O-] | C7H8ClN5O2
reactant | bis(chloromethyl)methylamine | 0.4 g | ClCN(C)CCl | C3H7Cl2N
reactant | triethylamine | 0.52 g | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-chloro-5-pyridylmethyl)-5-methyl-2-nitroiminohexahydro-1,3,5-triazine | 0.78 g | ClC1=NC=C(C=C1)CN1C(NCN(C1)C)=N[N+](=O)[O-] | C10H13ClN6O2
